US08791267B2
Synthesis of [5-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-methanol (P-599).
In an 8 mL vial equipped with a stir bar was placed 5-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridine-2-carboxylic acid methyl ester (I-146, 100 mg, 0.259 mmol) and tetrahydrofuran (1.3 mL). The solution was cooled to 0° C. and then lithium aluminum hydride (39.3 mg, 1.04 mmol) was added resulting in strong gas evolution. Then mixture was stirred at 0° C. for 1 hour and then concentrated with a stream of nitrogen. The solid was diluted with dichloromethane (2 mL) and then slowly quenched with water (7 mL). The aqueous portion was extracted with DCM (3×6 mL), the organic portions were combined, filtered through Celite, dried (MgSO4) and concentrated. The crude material was purified by silica gel column chromatography utilizing 30% acetone/dichloromethane to produce 22 mg of P-599 as a pale orange viscous oil in 24% yield.

reactant | 5-(3′-chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridine-2-carboxylic acid methyl ester | 0.259 mmol, 100 mg | COC(=O)C1=NC=C(C=C1)CC=1C(=C(C(=CC1)OC)C1=CC(=CC=C1)Cl)F | C21H17ClFNO3
reactant | lithium aluminum hydride | 1.04 mmol, 39.3 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 1.3 mL | O1CCCC1 | C4H8O
product | [5-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-methanol | 24% yield | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC=1C=CC(=NC1)CO)F | C20H17ClFNO2
